* Z:\mnt\design.r\spice\examples\1504A-3.3.asc
V1 IN 0 5
L1 N003 OUT 50µ
C1 OUT 0 100µ Rser=.1
C2 N006 0 .01µ
R1 IN N001 47K
C3 N004 0 5000p
R2 N005 N004 5K
XU1 N001 IN N003 0 OUT N002 N006 N005 LTC1504A top=20.4K bot=12.6K
Rload OUT 0 50
.tran 5m startup
.lib LTC1504A.sub
.backanno
.end
